US08487108B2
(S)-tert-Butyl-2,2-dimethyl-4-(((R)-tetrahydro-2H-pyran-3-yl)methyl)oxazolidine-3-carboxylate (9 g, 30.1 mmol) was dissolved in 80% CH3CO2H (90 ml). The solution was stirred at 50° C. during 1.5 hr and evaporated to dryness at reduced pressure. The residue was dissolved in Et2O (150 ml) and washed with saturated NaHCO3 (4×100 mL). The organic layer was dried over Na2SO4, filtered, and the solvent removed under reduced pressure to give tert-butyl (S)-1-hydroxy-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate (6.2 g, 79.5%) as an oil, which was used in the next step without further purification.

reactant | (S)-tert-Butyl-2,2-dimethyl-4-(((R)-tetrahydro-2H-pyran-3-yl)methyl)oxazolidine-3-carboxylate | 30.1 mmol, 9 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C[C@@H]1COCCC1)(C)C | C16H29NO4
solvent | CH3CO2H | 90 ml | CC(=O)O | C2H4O2
product | tert-butyl (S)-1-hydroxy-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 6.2 g, 79.5% | OC[C@H](C[C@@H]1COCCC1)NC(OC(C)(C)C)=O | C13H25NO4
